US06187905B1
A mixture of2 g (10 mmol) of 1-(2-naphthyl)-1-propanone oxime, 3.6 g (55.1 mmol) of zinc, 0.4 g (6 mmol) of ammonium acetate, 50 ml of aqueous ammonia, 12 ml of ethanol and 5 ml of dimethylformamide was stirred and heated at 85° C. for 1 hour. The mixture was cooled to room temperature, diluted with diethyl ether and basified with 35% aqueous sodium hydroxide solution. The ethereal layer was separated, dried over magnesium sulphate, filtered and evaporated to dryness to give 1.8 g of α(RS)-ethyl-2-naphthalenemethylamine as a colorless oil, 1H NMR (400 MHz, CDCL3) δ: 0.9 (t,3H), 1.7-1.8 (br,s,2H), 3.9-4.0 (t,1H), 4.1-4.2 (q,2H), 7.4-7.5 (m,3H), 7.75 (s,1H), 7.8-7.9 (m,3H).

reactant | 1-(2-naphthyl)-1-propanone oxime | 10 mmol | C1=C(C=CC2=CC=CC=C12)C(CC)=NO | C13H13NO
reactant | ammonium acetate | 6 mmol, 0.4 g | C(C)(=O)[O-].[NH4+]
reactant | ammonia | 50 ml | N | H3N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | zinc | 55.1 mmol, 3.6 g | [Zn] | Zn
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | α(RS)-ethyl-2-naphthalenemethylamine | 1.8 g | C(C)C(N)C1=CC2=CC=CC=C2C=C1 | C13H15N
